US07238808B2
N-{5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiazol-2-yl}-acetamide
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and N-(5-iodo-thiazol-2-yl)-acetamide [CAS-No. 252662-43-4](268 mg, 1.0 mmol) according to general procedure II. Obtained as an orange solid (240 mg, 48%). MS (EI) 495.1 [(M)+]; mp 302° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | N-(5-iodo-thiazol-2-yl)-acetamide | 1.0 mmol, 268 mg | IC1=CN=C(S1)NC(C)=O | C5H5IN2OS
product | N-{5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiazol-2-yl}-acetamide | FC(C1=CC(=NC=2N1N=CC2C#CC2=CN=C(S2)NC(C)=O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C21H11F6N5OS
